US07217724B2
To a suspension of N-(9-fluorenylmethoxycarbonyl)-D-alanine (8.17 g, 26.3 mmol), methylene chloride (88 ml) and N,N-dimethylformamide (0.14 ml) is added dropwise oxalyl chloride (2.44 ml, 28 mmol) at room temperature with stirring, and the mixture is further stirred for one hour. The reaction solution is concentrated to dryness under reduced pressure to give an oil containing 9-fluorenylmethoxycarbonyl-D-Ala-Cl. A solution of N,N-diethyl-2-(1H-indol-7-yloxy)acetamide (4.31 g, 17.5 mmol) in methylene chloride (44 ml) is cooled to −20° C., and thereto is added dropwise a 3M solution of methyl magnesium bromide in diethyl ether (20.5 ml, 61.4 mmol). After the addition, the mixture is further stirred at −15° C. for one hour. This reaction solution is cooled to −20 to −15° C., and thereto is added dropwise a solution of N-(9-fluorenylmethoxycarbonyl)-D-alanyl chloride in methylene chloride (53 ml) obtained above, and the mixture is further stirred at −20° C. for 5.5 hours. The mixture is warmed to about −5° C., and poured into 2N hydrochloric acid. The organic layer is collected, washed with water (25 ml), and dried over anhydrous magnesium sulfate. The solvent is evaporated under reduced pressure to give an oil (13.3 g) containing (R)-[2-(7-diethylcarbamoylmethoxy-1H-indol-3-yl)-1-methyl-2-oxoethyl]-carbamic acid 9H-fluoren-9-ylmethyl ester. To a solution of the obtained oil in a mixture of acetonitrile (70 mL) and 2-propanol (4.0 ml) is added sodium borohydride (1.98 g, 52 mmol) in portions at room temperature with stirring, and the mixture is refluxed for 5 hours. The reaction solution is cooled to room temperature, and thereto is added dropwise methanol (120 ml). The reaction mixture is concentrated to dryness under reduced pressure. To the residue are added ethyl acetate and water, and the mixture is stirred. The organic layer is separated, washed with a saturated brine, and dried over anhydrous sodium sulfate. The solvent is evaporated under reduced pressure, and the residue is purified by silica gel column chromatography (methanol/a saturated ammonia solution in chloroform=1/20) to give the desired (R)-2-[3-(2-aminopropyl)-1H-indol-7-yloxy]-N,N-diethyl-acetamide (1.33 g, yield: 25%).

reactant | (R)-[2-(7-diethylcarbamoylmethoxy-1H-indol-3-yl)-1-methyl-2-oxoethyl]-carbamic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](C(=O)C1=CNC2=C(C=CC=C12)OCC(N(CC)CC)=O)C)=O | C32H33N3O5
reactant | sodium borohydride | 52 mmol, 1.98 g | [BH4-].[Na+]
reactant | methanol | 120 ml | CO | CH4O
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
solvent | 2-propanol | 4.0 ml | CC(C)O | C3H8O
product | (R)-2-[3-(2-aminopropyl)-1H-indol-7-yloxy]-N,N-diethyl-acetamide | 1.33 g, yield: 25% | N[C@@H](CC1=CNC2=C(C=CC=C12)OCC(=O)N(CC)CC)C | C17H25N3O2
